US07915443B2
(S)-tert-butyl (3-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}phenyl)carbamate
In a manner similar to that described in Example 449, tert-butyl 3-ethynylphenylcarbamate (0.098 g, 0.443 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (0.100 g, 0.295 mmol) reacted to give the title compounds as a white solid (32 mg, 23%).

reactant | tert-butyl 3-ethynylphenylcarbamate | 0.443 mmol, 0.098 g | C(#C)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C13H15NO2
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.295 mmol, 0.100 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
product | (S)-tert-butyl (3-{[5-({[methyl(oxo)phenyl-λ6-sulfanylidene]amino}carbonyl)pyridin-3-yl]ethynyl}phenyl)carbamate | 32 mg, 23% | C[S@@](C1=CC=CC=C1)(=O)=NC(=O)C=1C=C(C=NC1)C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C26H25N3O4S
